US08877742B2
5-(7-azabicyclo[2.2.1]heptan-7-yl)-2-fluorophenol, hydrochloride
To a solution of 7-(4-fluoro-3-(methoxymethoxy)phenyl)-7-azabicyclo[2.2.1]heptane (D81) (423 mg, 1.683 mmol) in THF (10 mL) and MeOH (1 mL) was added 4M solution of HCl in 1,4-dioxane (2.104 mL, 8.42 mmol). The mixture was stirred overnight at RT. The reaction mixture was evaporated in vacuo to give the title compound (427 mg), which was carried over to next step without purification. LCMS (A): m/z [(M−HCl)+H]+ 208, Cl2H14FNO.HCl requires 243 (acidic).

reactant | 7-(4-fluoro-3-(methoxymethoxy)phenyl)-7-azabicyclo[2.2.1]heptane | 1.683 mmol, 423 mg | FC1=C(C=C(C=C1)N1C2CCC1CC2)OCOC | C14H18FNO2
reactant | HCl | Cl | ClH
reactant | 1,4-dioxane | 8.42 mmol, 2.104 mL | O1CCOCC1 | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | 5-(7-azabicyclo[2.2.1]heptan-7-yl)-2-fluorophenol, hydrochloride | 427 mg | Cl.C12CCC(CC1)N2C=2C=CC(=C(C2)O)F | InChI=1S/C12H14FNO.ClH/c13-11-6-5-10(7-12(11)15)14-8-1-2-9(14)4-3-8;/h5-9,15H,1-4H2;1H
